US08097628B2
A solution of 5-[bis(methyloxy)methyl]-3-chloro-2-iodopyridine (239 mg, 0.762 mmol) in THF (1.5 ml) was slowly added to a solution of i-PrMgCl (400 μl, 0.800 mmol) in THF (1.5 ml) at −20° C. under N2 and the mixture was stirred at that temperature. After 30 min a small amount of starting material was still observed by LCMS. After 2 h, LCMS still showed some starting material. More i-PrMgCl (60 μl) was added and after 40 min disappearance of the starting material was observed by LCMS. Acetaldehyde (47 μl, 0.841 mmol) was added and the mixture stirred at −20° C. for 10 min. Partial conversion was observed by LCMS and no evolution was observed after 1 h. Excess acetaldehyde was added but no changes were observed after 30 min by LCMS. Then, it was quenched with saturated NH4Cl, extracted with EtOAc, dried (MgSO4), filtered, and concentrated to afford 177.4 mg of crude material as a brown oil. The mixture was purified by flash chromatography using Flashmaster II, a 10 g Merck silica gel cartridge, and mixtures of hexane and EtOAc as eluent. 1-{5-[bis(methyloxy)methyl]-3-chloro-2-pyridinyl}ethanol (67 mg, 38%) was isolated as a yellow oil.

reactant | 5-[bis(methyloxy)methyl]-3-chloro-2-iodopyridine | 0.762 mmol, 239 mg | COC(C=1C=C(C(=NC1)I)Cl)OC | C8H9ClINO2
reactant | i-PrMgCl | 0.800 mmol, 400 μl | C(C)(C)[Mg]Cl
reactant | i-PrMgCl | 60 μl | C(C)(C)[Mg]Cl
reactant | Acetaldehyde | 0.841 mmol, 47 μl | C(C)=O | C2H4O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 1-{5-[bis(methyloxy)methyl]-3-chloro-2-pyridinyl}ethanol | 67 mg, 38% | COC(C=1C=C(C(=NC1)C(C)O)Cl)OC | C10H14ClNO3
